* source SIMULERING
L_L7         N23197 N23659  45n  
L_L8         N23663 N20684  1n  
C_C12         N26009 N20684  300p  TC=0,0 
C_C13         0 N23663  5p  TC=0,0 
L_L5         N23193 N23197  50n  
C_C14         N21680 N23193  100p  TC=0,0 
L_L10         N23659 N23663  47n  
C_C15         N23197 0  18p  TC=0,0 
C_C18         0 N23659  18p  TC=0,0 
R_R2         0 N23659  10000meg TC=0,0 
V_V3         N21680 0 DC 0Vdc AC 1Vac 
R_R8         0 N23193  1000meg TC=0,0 
C_C0         N28991 N36241  25p  TC=0,0 
V_V4         N28991 0 DC 0Vdc AC 1Vac 
R_R11         0 N26009  50 TC=0,0 
L_L0         N36241 N33516  22nH  
L_LM3         N36492 N37629  68nH  
C_CM         0 N33516  18p  TC=0,0 
L_LM         N33516 N36307  56nH  
L_LM2         N36307 N36492  47nH  
C_CM2         0 N36492  18p  TC=0,0 
C_CP1         N36492 N37629  3pf  TC=0,0 
L_LM4         N37629 N37847  47nH  
C_CP2         N37629 N37847  2pf  TC=0,0 
C_C23         N37847 N32588  470p  TC=0,0 
C_CM3         0 N37629  18p  TC=0,0 
R_R12         0 N32588  50 TC=0,0 
R_R9         0 N36307  1000000meg TC=0,0 
